Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
EGD
Placement of ___ tube

 
History of Present Illness:
___ with history of EtOH cirrhosis presenting with chest pain 
and right flank pain after falls. Patient fell 1 week ago while 
walking down the stairs. No head strike, headache, LOC, nausea, 
vomiting. She was evaluated at ___ and ___ to have 
large hematomas, anemia and jaundice. Of note, she reports that 
she had been sober for the last 7 months but started drinking 
for the last two weeks, last drink ___. Also reported 1 month 
of vaginal bleeding which she had not seen a doctor for, which 
she feels has tapered off and is nonexistent today. Denies 
pelvic pain, vaginal discharge. CT abdomen/pelvis showed ascites 
and enlarged gallbladder, she was transferred to ___ for ERCP 
evaluation. H/H at ___ was 6.5/19.7, lactate 3.5. She 
was also found to have a lactate of 3.5. She received 1 unit of 
prbcs/1 unit of ffp, levaquin/flagyl prior to transport for 
presumed cholangitis.

In the ED: initial vitals:  T101.5  HR 102   BP 112/68  RR 18  
98% NC 
Labs were notable for  Sodium 124, K 3.1, Creat 1.8, WBC 14.8 
H/H 6.2/18.3 plt 65, INR 2.1, Fibrinogen 179, lactate 2.2, K 
3.0.
 
Past Medical History:
Alcohol abuse complicated by presumed cirrhosis, neuropathy, and 
withdrawal seizures  
Alcoholic hepatitis 
Anemia  
Hypothyroidism  
Depression  
Hypertension  

 
Social History:
___
Family History:
None
 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM:
=========================
GENERAL: Alert, oriented, no acute distress. AOx3  
HEENT: Sclera icteric, MMM, oropharynx clear. Lice seen in hair.
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Distended, soft. TTP in RUQ, mildly tender in RLQ. 
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  Diffusely jaundice. Multiple hematomas on L thigh, r 
gluteal region, and chest. The hematoma on her chest is tight, 
painful, and has hard well-circumscribed mobile mass under it. 
NEURO:  no asterixis
=========================
DISCHARGE PHYSICAL EXAM:
=========================
VS: T 97.5 BP 115/65 HR 89 RR 18 96% RA
GEN: Alert, oriented, lying in bed in no distress.  
HEENT: Sclera icteric, improved; MMM, Dobhoff
HEART: RRR, normal S1 S2, no murmurs  
LUNGS: Bibasilar rales, no wheezing; coughing occasionally 
during exam 
ABD: Mild distention, normal BS, nontender, not tense  
EXT: Warm, 2+ pulses, no edema  
SKIN: Diffusely jaundiced. Multiple large hard nontender 
hematomas on R breast, R flank, R hip, L thigh, arms, and legs.
NEURO: Tremor but no asterixis  
 
Pertinent Results:
===================
ADMISSION LABS
===================
___ 03:00PM BLOOD WBC-14.8*# RBC-1.66*# Hgb-6.2*# 
Hct-18.3*# MCV-110* MCH-37.3*# MCHC-33.9 RDW-24.4* RDWSD-88.7* 
Plt Ct-65*
___ 03:00PM BLOOD Hypochr-2+ Anisocy-2+ Poiklo-NORMAL 
Macrocy-1+ Microcy-1+ Polychr-1+
___ 03:00PM BLOOD ___ PTT-43.1* ___
___ 03:00PM BLOOD Plt Smr-VERY LOW Plt Ct-65*
___ 03:00PM BLOOD ___
___ 03:00PM BLOOD Glucose-121* UreaN-28* Creat-1.8*# 
Na-124* K-3.1* Cl-83* HCO3-30 AnGap-14
___ 03:00PM BLOOD ALT-41* AST-172* AlkPhos-111* 
TotBili-21.8* DirBili-16.5* IndBili-5.3
___ 03:00PM BLOOD Albumin-2.7* Calcium-7.1* Phos-1.6* 
Mg-1.1*
___ 03:16PM BLOOD D-Dimer-2598*
___ 10:18PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE IgM 
HAV-NEGATIVE
___ 02:27AM BLOOD HBcAb-NEGATIVE
___ 10:18PM BLOOD HCV Ab-NEGATIVE
___ 03:16PM BLOOD Lactate-2.2* K-3.0*
===================
PERTINENT RESULTS:
===================
IMAGING:
===================
RUQ US WITH DOPPLER (___):
1.  Evidence of portal hypertension with trace ascites, 
splenomegaly, patent
umbilical vein, reversed portal venous flow.
2.  Heterogeneous liver consistent with known history of 
cirrhosis.
3.  Gallbladder sludge without evidence of acute cholecystitis.
===
MRCP (___):
1.  Sludge in a mildly distended gallbladder but no mural 
thickening, hyperenhancement or pericholecystic free fluid to 
suggest acute cholecystitis. No choledocholithiasis.  No fluid 
collections.
2.  Cirrhosis with evidence of portal hypertension characterized 
by splenomegaly, ascites and recanalization of the paraumbilical 
vein.
3.  Hypoenhancing nodules scattered throughout the liver are 
most in keeping with regenerative nodules and appear similar to 
the previous exam. No concerning hepatic lesions.
4.  Moderate hepatic steatosis.
===
CXR (___): Heart size and mediastinum are unchanged. New 
bibasal consolidations are present, and although might represent 
pulmonary edema, multifocal infectious process is a possibility. 
No substantial pleural effusion is seen although minimal amount 
of pleural fluid is noted.
===
TTE (___): The left atrium is mildly dilated. Left 
ventricular wall thicknesses and cavity size are normal. Left 
ventricular systolic function is hyperdynamic (Quantitative 
(biplane) LVEF = 76%). The estimated cardiac index is high 
(>4.0L/min/m2). There is a mild resting left ventricular outflow 
tract obstruction. Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion. 
There is no valvular aortic stenosis. The increased transaortic 
velocity is likely related to high cardiac output. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion. 
=====================
MICROBIOLOGY:
=====================
Blood cultures ___: No growth.
Urine cultures ___: No growth.
===
HCV Viral Load (___): HCV-RNA NOT DETECTED.
___ 10:18PM BLOOD HCV Ab-NEGATIVE
___ 10:18PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE IgM 
HAV-NEGATIVE
___ 02:27AM BLOOD HBcAb-NEGATIVE
=== 
C. difficile DNA amplification assay (Final ___: Negative. 

======================
LABS:
======================
___ 05:09AM BLOOD %HbA1c-4.7* eAG-88*
=====================
DISCHARGE LABS:
=====================
___ 04:46AM BLOOD WBC-23.0* RBC-2.42* Hgb-8.5* Hct-26.2* 
MCV-108* MCH-35.1* MCHC-32.4 RDW-27.2* RDWSD-100.9* Plt Ct-95*
___ 04:46AM BLOOD ___ PTT-41.8* ___
___ 04:46AM BLOOD Glucose-130* UreaN-42* Creat-1.0 Na-134 
K-4.5 Cl-94* HCO3-30 AnGap-15
___ 04:46AM BLOOD ALT-44* AST-97* LD(LDH)-508* AlkPhos-168* 
TotBili-14.5*
___ 04:46AM BLOOD Albumin-2.6* Calcium-8.6 Phos-4.4 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with a history of alcoholic 
cirrhosis who presented to OSH with chest and flank pain after a 
fall, found to have severe anemia, possible cholangitis, and 
positive blood culture. MRCP at ___ was negative for 
cholangitis. Positive blood culture thought to be contaminant. 
The patient was transfused 2 units pRBCs for her anemia. The 
patient then developed an oxygen requirement to 6L and was found 
to have bibasilar infiltrates concerning for HCAP. She completed 
an 8-day course of vancomycin/cefepime with improvement in her 
oxygen requirement; she was discharged on room air. For her 
alcoholic hepatitis and cirrhosis, she was initiated on steroids 
once her pneumonia was well-controlled. A Dobhoff was placed for 
nutritional support with tube feeds. The patient was started on 
PCP prophylaxis with dapsone. She underwent EGD with 3 cords of 
grade I varices and was initiated on nadolol.

===================
ACTIVE ISSUES:
===================

# Alcoholic hepatitis and cirrhosis: The patient has a history 
of alcoholic cirrhosis. She had been sober for 7 months, but two 
weeks prior to admission she began drinking again. No history of 
complications including hepatic encephalopathy, ascites, or 
variceal bleeding. She presented with a DF of 32 on admission, 
and was given prednisolone 40 mg x1. Prednisone was not 
initially continued due to pending infectious evaluation. 
Patient was subsequently diagnosed with HCAP (see below) and 
treated with 8 days of vancomycin/cefepime. Once her infection 
was well-controlled she was started on prednisone 40 mg on ___ 
for 28 days (taper TBD). She was noted to have improvement in 
Tbili and INR s/p steroid initiation. ___ was placed ___ 
and advanced via ___ ___ for Jevity tube feeds. She was started 
on dapsone for PCP ___ (neg for G6PD deficiency; Bactrim 
allergy). She also underwent EGD that showed 3 cords of grade I 
varices so she was initiated on nadolol. She was continued on 
folate, thiamine, and a multivitamin.

# ___: Patient presented with ___ (creatinine increased to 2.0) 
in setting of acute illness, likely initially pre-renal and 
subsequently secondary to possible overdiuresis in setting of 
hypoxia (below). Given albumin 1 mg/kg x 2 days without 
significant improvement. Subsequently diuresed due to concern 
for volume overload. Creatinine improved after diuretics were 
discontinued. Creatinine back to 1.0 at discharge (baseline).

# HCAP: Patient with worsening hypoxia to 6L and found to have 
bibasilar infiltrates on CXR. Initially thought to be component 
of volume overload secondary to albumin challenge for ___ as 
above, so patient diuresed with Lasix IV 20 mg. She completed 
8-days of vancomycin/cefepime with improvement in her 
respiratory status. Discharged on RA.

# Hyponatremia: Admitted with hyponatremia to 124 in setting of 
decompensation and infection. Resolved to 134 on discharge.

# CoNS bacteremia: Noted on 1 set of blood cultures at ___ 
___ to grow CoNS, believed to be contaminant. However, 
patient arrived to ___ febrile and tachycardic and therefore 
started on vancomycin. Patient was continued on vancomycin for 
HCAP treatment as above.

# Anemia: Patient presented from OSH with Hgb 6.2 and had 
appropriate increase in hemoglobin after 2 units pRBCs. There 
was no evidence of a GIB but she did report menorrhagia, which 
resolved.

# Thrombocytopenia: Patient with stable thrombocytopenia likely 
secondary to chronic sequestration.

# Coagulopathy: INR 2.0-2.5 likely reflecting synthetic 
dysfunction. Patient given IV and PO vitamin K without 
improvement in INR.

# Multiple hematomas s/p fall: Patient reports that she fell 
down a set of stairs in her home while working on a home 
___. Exam revealed multiple large hematomas. CT 
Abd/Pelvis w/o contrast at OSH on ___ without evidence of 
intrabdominal hematoma. Patient denied intimate partner 
violence. Hematomas improved over course of hospitalizations.

# Lice: Treated with lindane and permethrin.

===================
CHRONIC ISSUES:
===================
# Chronic leg pain: Continued gabapentin. 

# History of withdrawal seizures: Continued home levetiracetam.

# Hypothyroidism: Continued levothyroxine.

=======================
TRANSITIONAL ISSUES:
=======================
# Patient started on prednisone 40 mg daily for alcoholic 
hepatitis. She will be discharged on 28-day total course of 
prednisone (last day ___ with taper determined by hepatology 
follow-up.
# Patient started on dapsone for PCP ppx given sulfa allergy. 
G6PD test negative.
# Patient noted to have 3 cords of grade I varices, so was 
started on nadolol.
# Weight on discharge: 79.3 kg

# Code: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
3. Levothyroxine Sodium 25 mcg PO QAM 
4. Lidocaine 5% Patch 1 PTCH TD QAM 
5. Phytonadione 5 mg PO DAILY 
6. Magnesium Oxide 400 mg PO BID 
7. LeVETiracetam 500 mg PO BID 
8. Gabapentin 600 mg PO TID 
9. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
10. Prochlorperazine 5 mg PO TID:PRN nausea 
11. QUEtiapine Fumarate 50 mg PO QHS 
12. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 

 
Discharge Medications:
1. Jevity 1.5 Cal (lactose-reduced food with fibr) 0.06 gram-1.5 
kcal/mL NJ INFUSION 
Rate: 60mL/hour
Residual check: q4H Hold feeding for residual >200 mL
Flush with 30 mL water q8H 
RX *lactose-reduced food with fibr [Jevity 1.5 Cal] 0.06 
gram-1.5 kcal/mL 60 mL NJ Per hour Refills:*1
2. Gabapentin 600 mg PO TID 
3. LeVETiracetam 500 mg PO BID 
4. Levothyroxine Sodium 25 mcg PO QAM 
5. Lidocaine 5% Patch 1 PTCH TD QAM 
6. Magnesium Oxide 400 mg PO BID 
7. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
8. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
9. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) daily daily Disp #*30 Tablet 
Refills:*0
10. Multivitamins 1 TAB PO DAILY 
11. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
12. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
13. Nadolol 10 mg PO DAILY 
RX *nadolol 20 mg 0.5 (One half) tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
14. PredniSONE 40 mg PO DAILY Duration: 28 Days 
last dose ___ 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*23 Tablet 
Refills:*0
15. Prochlorperazine 5 mg PO TID:PRN nausea 
16. Dapsone 100 mg PO DAILY 
RX *dapsone 100 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
=====================
PRIMARY DIAGNOSIS:
=====================
- Alcoholic hepatitis 
- Healthcare-Associated Pneumonia
=====================
SECONDARY DIAGNOSIS:
=====================
- Acute kidney injury
- Alcoholic cirrhosis
- Hyponatremia
- Hematomas
- Anemia
- Positive blood culture
- Lice

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of ___ during ___ recent admission 
to ___. ___ were admitted after being 
diagnosed with alcoholic hepatitis from drinking. For this, we 
started ___ on steroid medications to help with inflammation. 
___ should continue this (last dose ___ unless otherwise 
instructed by your liver doctor ___ will have an 
appointment with her on ___ to further discuss the 
steroid course. Because ___ are on steroids, which could put ___ 
at increased risk of infection, we started ___ on a medication 
called dapsone. 

___ also had a feeding tube placed for nutrition while your 
liver recovers. Additionally, we have given ___ vitamins to 
take. Please make sure ___ weigh yourself daily and call your 
doctor if your weight goes up over 3 pounds in 3 days. It is 
VERY important that ___ are seeing your therapist and staying 
away from alcohol because ___ could get very ill if ___ relapse.

___ were also treated for a pneumonia with IV antibiotics. ___ 
received an endoscopy, which showed some enlarged veins in your 
esophagus. To prevent bleeding from these veins, we have started 
___ on a new medication called nadolol. If ___ are having 
dizziness or lightheadedness, please call your physician. 

We wish ___ the best,
Your ___ Care Team
 
Followup Instructions:
___